US04837242
1.00 g (4.08 mmol) of N-(1,1-dimethyl-4-indanyl)acetoacetamide and 0.62 g (8.16 mmol) of thiourea were dissolved in 10 ml of benzene and to this solution was added dropwise a solution of 0.55 g (4.08 mmol) of sulfuryl chloride in 5 ml of benzene at room temperature. After reacting for 2 hours at this temperature, the reaction mixture was refluxed for 1 hour, and left overnight. Then, the resulting solution was concentrated and dissolved in hot water and thereafter neutralyzed with 28% aqueous ammonia to give a precipitate. This precipitate was filtered, washed with water and dried to obtain 1.00 g of N-(1,1-dimethyl-4-indanyl)-2-amino-4-methylthiazole-5-carboxamide (yield 81%).

reactant | N-(1,1-dimethyl-4-indanyl)acetoacetamide | 4.08 mmol, 1.00 g | CC1(CCC2=C(C=CC=C12)NC(CC(=O)C)=O)C | C15H19NO2
reactant | thiourea | 8.16 mmol, 0.62 g | NC(=S)N | CH4N2S
reactant | sulfuryl chloride | 4.08 mmol, 0.55 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
product | N-(1,1-dimethyl-4-indanyl)-2-amino-4-methylthiazole-5-carboxamide | 1.00 g, yield 81% | CC1(CCC2=C(C=CC=C12)NC(=O)C1=C(N=C(S1)N)C)C | C16H19N3OS
